US08871738B2
To methyl 3′-[2-{(1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-3-oxotetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-5-yl}-6-(dimethylamino)-5-(propan-2-yl)pyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate (24 mg, 0.033 mmol) in THF (1 mL) was added lithium hydroxide (9.51 mg, 0.397 mmol). The reaction was stirred overnight at room temperature. Reaction was incomplete. More lithium hydroxide (4.76 mg, 1.99 mmol) was added, and the reaction was heated to 50° C. for 5 hours. The reaction was purified by HPLC to yield 3′-[2-{(1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-3-oxotetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-5-yl}-6-(dimethylamino)-5-(propan-2-yl)pyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylic acid (10 mg, 0.012 mmol). 1H NMR indicated that this compound exists as a pair of rotamers at 1.6:1 ratio. 1H NMR (500 MHz, CDCl3) δ7.94-8.10 (m, 2H), 7.90 (s, 1H), 7.84 (s, 2H), 7.48 (m, 2H), 7.42 (dd, J=8.5 Hz, J=2.0 Hz, 1H), 7.37 (d, J=7.5 Hz, 1H, minor rotamer), 7.30 (d, 1H, merged with solvent peak, major rotamer), 7.14 (d, J=8.5 Hz, 1H, minor rotamer),7.07 (d, J=8.5 Hz, 1H, major rotamer), 5.98 (d, J=8.0 Hz, 1H, minor rotamer), 5.93 (d, J=8.0 Hz, 1H, major rotamer), 5.09 (t, J=7.5 Hz, 1H, minor rotamer), 5.01 (t, J=7.5 Hz, 1H, major rotamer), 4.76 (m, 1H), 3.93 (s, 3H, minor rotamer), 3.83 (s, 3H, major rotamer), 3.40 (m, 1H), 3.07 (s, 6H), 2.47 (s, 3H, major rotamer), 2.40 (s, 3H, minor rotamer), 2.35 (m, 1H), 2.05 (m, 1H), 1.60 (m, 1H), 1.29 (t, J=6.5 Hz, 6H), 1.08 (m, 1H). MS ESI calc'd. for C39H38F6N3O5 [M+H]+ 742.3. found 742.5. RTA (95% HS): 182 nM

reactant | methyl 3′-[2-{(1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-3-oxotetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-5-yl}-6-(dimethylamino)-5-(propan-2-yl)pyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate | 0.033 mmol, 24 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@H]2N(C(O1)=O)[C@@H](CC2)C2=NC(=C(C=C2C=2C=C(C=CC2OC)C2=C(C=C(C=C2)C(=O)OC)C)C(C)C)N(C)C)(F)F | C40H39F6N3O5
reactant | lithium hydroxide | 0.397 mmol, 9.51 mg | [OH-].[Li+]
reactant | lithium hydroxide | 1.99 mmol, 4.76 mg | [OH-].[Li+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3′-[2-{(1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-3-oxotetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-5-yl}-6-(dimethylamino)-5-(propan-2-yl)pyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylic acid | 0.012 mmol, 10 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@H]2N(C(O1)=O)[C@@H](CC2)C2=NC(=C(C=C2C=2C=C(C=CC2OC)C2=C(C=C(C=C2)C(=O)O)C)C(C)C)N(C)C)(F)F | C39H37F6N3O5
